US09193693B2
Step 2. 3-(Isopropyl(methyl)amino)-2-(3-methoxyphenyl)quinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed methyl 3-(isopropyl(methyl)amino)-2-(3-methoxyphenyl)quinoxaline-6-carboxylate (50 mg, 0.14 mmol, 1.00 equiv), methanol (10 mL), sodium hydroxide (27.4 mg, 0.69 mmol, 5.00 equiv), water (2 mL). The resulting solution was stirred for 2 hs at 50° C. in an oil bath. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 20 mL of H2O. The pH value of the aqueous solution was adjusted to 4-5 with hydrogen chloride (1 mol/L). The resulting solids were collected by filtration. This resulted in 20 mg (41%) of 3-(isopropyl(methyl)amino)-2-(3-methoxyphenyl)quinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-(isopropyl(methyl)amino)-2-(3-methoxyphenyl)quinoxaline-6-carboxylate | 0.14 mmol, 50 mg, 1.00 equiv | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC(=CC=C1)OC)C | C21H23N3O3
reactant | methanol | 10 mL | CO | CH4O
reactant | sodium hydroxide | 0.69 mmol, 27.4 mg, 5.00 equiv | [OH-].[Na+]
solvent | water | 2 mL | O | H2O
product | 3-(Isopropyl(methyl)amino)-2-(3-methoxyphenyl)quinoxaline-6-carboxylic acid | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC(=CC=C1)OC)C | C20H21N3O3
